US08217043B2
e) 4,5-Dichloro-1-[(4-fluoro-benzyl)-(2-methoxycarbonyl-acetyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 4,5-dichloro-1-(4-fluoro-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonyl-acetic acid methyl ester (1.5 eq.). 1H NMR (CDCl3, δ in ppm): 7.1-6.8 (m, 5H), 4.88 (d, 1H, J=14.6 Hz), 4.75 (d, 1H, J=14.0 Hz), 3.72 (s, 3H), 3.67 (s, 3H), 3.17 (dd, 2H).

reactant | 4,5-dichloro-1-(4-fluoro-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C(=C(C1)Cl)Cl)NCC1=CC=C(C=C1)F | C13H11Cl2FN2O2
reactant | chlorocarbonyl-acetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 4,5-Dichloro-1-[(4-fluoro-benzyl)-(2-methoxycarbonyl-acetyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C(=C(C1)Cl)Cl)N(C(CC(=O)OC)=O)CC1=CC=C(C=C1)F | C17H15Cl2FN2O5
